US07608629B2
Preparation 66. 6-(1-Benzyl-2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-ylamine
Combine 2-(1-benzyl-2,2-dimethyl-piperidin-4-yloxy)-6-chloro-pyridine (preparation 54, 0.57 g, 1.72 mmol), benzhydrylideneamine (0.31 g, 1.72 mmol) and toluene (20 mL), add sodium-t-butoxide (0.22 g, 2.24 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.043 g, 0.69 mmol), stir and heat at 80° C. After 10 min., add tris(dibenzylideneacetone)-dipalladium(0) (0.032 g, 0.345 mmol), stir and heat at 80° C. After 16 hr., add tris(dibenzylideneacetone)-dipalladium(0) (0.032 g, 0.345 mmol) and continue heating. After additional 24 hr., cool to ambient temperature. Partition between water (50 mL) and ethyl acetate (50 mL). Separate the organic layer, wash with aqueous NaCl solution (50 mL), dry over sodium sulfate, filter and concentrate. Dissolve residue in tetrahydrofuran (80 mL) and treat with 1M aqueous hydrochloric acid (30 mL) with stirring. After 1 hr., make the reaction mixture basic by adding 2M aqueous sodium hydroxide solution; extract with ethyl acetate. Separate the organic layer, dry over sodium sulfate, filter and concentrate. Purify residue by silica gel flash chromatography eluting with 5% (2M ammonia/methanol)/dichloromethane to of impure title compound (0.50 g). Mass spectrum (electrospray): m/z=312.2 (M+1).

reactant | 2-(1-benzyl-2,2-dimethyl-piperidin-4-yloxy)-6-chloro-pyridine | 1.72 mmol, 0.57 g | C(C1=CC=CC=C1)N1C(CC(CC1)OC1=NC(=CC=C1)Cl)(C)C | C19H23ClN2O
reactant | benzhydrylideneamine | 1.72 mmol, 0.31 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium-t-butoxide | 2.24 mmol, 0.22 g | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.69 mmol, 0.043 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.345 mmol, 0.032 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.345 mmol, 0.032 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(1-Benzyl-2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-ylamine | C(C1=CC=CC=C1)N1C(CC(CC1)OC1=CC=CC(=N1)N)(C)C | C19H25N3O
